US06995247B2
2-(4-nitro-benzyl)-1,4,7,10,13,16-hexaazacyclohexadecane-1,4,7,10,13,16-hexaacetic acid
To a 10 ml round-bottomed flask hexa-tert-butyl 2-(4-nitrobenzyl)-1,4,7,10,13,16-hexaazacyclohexadecane-1,4,7,10,13,16-hexaacetate (166 mg, 0.15 mmol) was combined with conc. HCl (5 ml) and heated at reflux for 6 hr. The HCl (aq) was removed by rotary evaporation and the residue was taken up in water (1–2 ml) and was lyophilized to give hexa-acid as a pale yellow solid (100 mg, 70%).

reactant | hexa-tert-butyl 2-(4-nitrobenzyl)-1,4,7,10,13,16-hexaazacyclohexadecane-1,4,7,10,13,16-hexaacetate | 0.15 mmol, 166 mg | [N+](=O)([O-])C1=CC=C(CC2N(N(CCN(CCN(CCN(CCN(C2)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)C=C1 | C53H91N7O14
reactant | HCl | 5 ml | Cl | ClH
product | 2-(4-nitro-benzyl)-1,4,7,10,13,16-hexaazacyclohexadecane-1,4,7,10,13,16-hexaacetic acid | 100 mg, 70% | [N+](=O)([O-])C1=CC=C(CC2N(N(CCN(CCN(CCN(CCN(C2)CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O)C=C1 | C29H43N7O14
